US07399775B2
3-Chloro-4-[(2,5-difluorophenyl)-hydroxymethyl]pyridine
To a tetrahydrofuran solution (14 ml) of diisopropylamine (1.4 ml, 10 mmol) was added n-butyl lithium (6.3 ml, 1.59M hexane solution) at −78° C. and the mixture was stirred for 10 minutes. Then, 3-chloropyridine (1.13 g, 10 mmol) was added to the resulting mixture. Thirty minutes later, 2,5-difluorobenzaldehyde (1.09 ml, 10 mmol) was added to the mixture. The mixture was warmed gradually to 0° C., at which stirring was conducted for further 10 minutes. An aqueous solution of ammonium chloride was added and the mixture was diluted with ethyl acetate (80 ml). The organic layer obtained by separation was washed with brine and then dried. After filtration, the filtrate was concentrated under reduced pressure. The precipitate thus obtained was triturated with ethanol to yield the title compound (1.33 g, 52%).

reactant | diisopropylamine | 10 mmol, 1.4 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 1.59M, 6.3 ml | C(CCC)[Li]
reactant | 3-chloropyridine | 10 mmol, 1.13 g | ClC=1C=NC=CC1 | C5H4ClN
reactant | 2,5-difluorobenzaldehyde | 10 mmol, 1.09 ml | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
product | 3-Chloro-4-[(2,5-difluorophenyl)-hydroxymethyl]pyridine | 1.33 g, 52% | ClC=1C=NC=CC1C(O)C1=C(C=CC(=C1)F)F | C12H8ClF2NO
